US09029360B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-methoxy-5,6,8,9-tetrahydro-pyrido[2,3-d]azepin-7-yl)-methanone
The title compound was prepared in accordance with the general method of example 2 from 6-bromo-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid and 2-methoxy-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. Yield: 0.05 g (60% of theory). ESI-MS: m/z=402 (M+H)+; Rt(HPLC): 1.12 min. (Method J).

reactant | 6-bromo-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 2-methoxy-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | COC=1C=CC2=C(CCNCC2)N1 | C10H14N2O
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-methoxy-5,6,8,9-tetrahydro-pyrido[2,3-d]azepin-7-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)C=CC(=N1)OC | C17H16BrN5O2
